US05905074
To a stirred solution of 9.95 g (28.5 mMol) imidazole-1-carbothioic acid(2S, 4aS, 5S)-O-(5-tert-butoxy-4a-methyl-2,3,4,4a,5,6,7,8-octahydro-naphtalen -2-yl)ester in 285 ml toluene kept under argon atmosphere were added 75.7 ml (285 mMol) of tributyltinhydride and 75.7 ml of a one molar solution of triethylborane in tetrahydrofuran. The reaction mixture was heated to 120° C. for 4 hours and additional 20 ml of tributyltinhydride as well as 20 ml of triethylborane solution (one molar in tetrahydrofuran) were added. The reaction mixture was kept at 120° C. for 3 days, cooled to room temperature and evaporated in vacuo. The residue was chromatographed twice over 900 g silica gel with toluene/hexane 1/1 to yield 4.3 g of pure (4S,4aS)-4-tert-Butoxy-4a-methyl-1,2,3,4,4a,5,6,7-octahydro-naphtalene (liquid).

reactant | imidazole-1-carbothioic acid(2S, 4aS, 5S)-O-(5-tert-butoxy-4a-methyl-2,3,4,4a,5,6,7,8-octahydro-naphtalen -2-yl)ester | 28.5 mMol, 9.95 g | C(C)(C)(C)O[C@@H]1[C@]2(CC[C@@H](C=C2CCC1)OC(=S)N1C=NC=C1)C | C19H28N2O2S
reactant | tributyltinhydride | 285 mMol, 75.7 ml | C(CCC)[SnH](CCCC)CCCC
reactant | triethylborane | C(C)B(CC)CC | C6H15B
reactant | tributyltinhydride | 20 ml | C(CCC)[SnH](CCCC)CCCC
reactant | triethylborane | one molar, 20 ml | C(C)B(CC)CC | C6H15B
solvent | toluene | 285 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (4S,4aS)-4-tert-Butoxy-4a-methyl-1,2,3,4,4a,5,6,7-octahydro-naphtalene | 4.3 g | C(C)(C)(C)O[C@H]1CCCC2=CCCC[C@]12C | C15H26O
